US04380619
To a solution of 10.7 g (0.10 mole) of 4-nitrophthalic anhydride in 150 ml of glacial acetic acid was added 12.9 g (0.11 mole) of 3-ethynylaniline. A white precipitate formed immediately. The mixture was heated to reflux for 1 hour, then cooled and filtered. The precipitate was washed with water and methanol. Recrystallization from toluene gave 25.7 g (87% yield) of 4-nitro-N-(3-ethynylphenyl)phthalimide, m.p. 257°-259° C.

reactant | 4-nitrophthalic anhydride | 0.10 mole, 10.7 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | 3-ethynylaniline | 0.11 mole, 12.9 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 4-nitro-N-(3-ethynylphenyl)phthalimide | 25.7 g, 87% yield | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)C2=CC(=CC=C2)C#C)=CC1 | C16H8N2O4
